US04559361
In 50 ml of methanol was dissolved 1 g of trans-2-benzyloxy-5-hydroxy-6-(1-methyl-3-phenylpropylamino)-5,6,7,8-tetrahydro-1-naphthalenecarboxamide hydrochloride and catalytic reduction was carried out in the presence of 1 g of 10% palladium-on-carbon at atmospheric temperature and pressure. After the absorption of hydrogen was completed, the catalyst was filtered off and the filtrate was distilled under reduced pressure. To the residue was added 50 ml of ethyl ether, whereby 0.56 g of trans-2,5-dihydroxy-6-(1-methyl-3-phenylpropylamino)-5,6,7,8-tetrahydro-1-naphthalenecarboxamide hydrochloride was obtained as colorless powder.

reactant | trans-2-benzyloxy-5-hydroxy-6-(1-methyl-3-phenylpropylamino)-5,6,7,8-tetrahydro-1-naphthalenecarboxamide hydrochloride | 1 g | Cl.C(C1=CC=CC=C1)OC1=C(C=2CC[C@H]([C@@H](C2C=C1)O)NC(CCC1=CC=CC=C1)C)C(=O)N
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium-on-carbon | 1 g | [Pd] | Pd
product | trans-2,5-dihydroxy-6-(1-methyl-3-phenylpropylamino)-5,6,7,8-tetrahydro-1-naphthalenecarboxamide hydrochloride | 0.56 g | Cl.OC1=C(C=2CC[C@H]([C@@H](C2C=C1)O)NC(CCC1=CC=CC=C1)C)C(=O)N | InChI=1S/C21H26N2O3.ClH/c1-13(7-8-14-5-3-2-4-6-14)23-17-11-9-15-16(20(17)25)10-12-18(24)19(15)21(22)26;/h2-6,10,12-13,17,20,23-25H,7-9,11H2,1H3,(H2,22,26);1H/t13?,17-,20-;/m1./s1
